US06562814B2
A mixture of 5-indanyl-isothiocyanate (18.5 g), N-methyl aminooxy acetic acid hydrochloride (16.2 g), triethylamine (25 g) and chloroform (150 mL) was heated at reflux for one half hour, stirred at ambient temperature for one hour, then evaporated to dryness. The residue was dissolved in ethyl acetate (500 mL) and washed with 2N HCl (2×400 mL) then with water (400 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness affording (31.3 g) of [[[[(5-indanyl)amino]thioxomethyl]methylamino]oxy]acetic acid as an oil. 1H-NMR (DMSO-d6; 300 MHz) δ13.1 (br s, 1H), 10.5 (s, 1H), 7.38 (s, 1H), 7.18 (m, 2H), 4.62 (s, 2H), 3.50 (s, 3H), 2.82 (m, 4H), and 2.03 ppm (m, 2H). The acid (26.1 g) was dissolved in benzene (200 mL). Phosphorus pentachloride (25 g) was added in portions. The mixture was heated at reflux for one half hour then evaporated to dryness. The residue was dissolved in ethyl acetate (400 mL) and washed with sodium bicarbonate saturated solution (2×300 mL) then with water (300 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was chromatographed on silica gel (10% ethyl acetate in hexane). Crystallization from ether afforded the title compound (4.3 g) as a solid, m.p. 135-137° C. Mass spectrum (El, M.+) m/z 262. 1H-NMR (CDCl3; 400 MHz) δ7.31 (d, 1H), 7.04 (s, 1H), 6.96 (d, 1H), 4.84 (ABq, 2H), 3.75 (s, 3H), 2.96 (t, 4H), and 2.11 ppm (m, 2H).

reactant | 5-indanyl-isothiocyanate | 18.5 g | C1CCC2=CC(=CC=C12)N=C=S | C10H9NS
reactant | N-methyl aminooxy acetic acid hydrochloride | 16.2 g | Cl.CNOCC(=O)O
reactant | triethylamine | 25 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | [[[[(5-indanyl)amino]thioxomethyl]methylamino]oxy]acetic acid | 31.3 g | C1CCC2=CC(=CC=C12)NC(=S)N(OCC(=O)O)C | C13H16N2O3S
